US08669234B2
3a,6a-Dihydro-thieno[3,2-b]thiophene-2-carboxylic acid methoxy-methyl-amide:
3a,6a-Dihydro-thieno[3,2-b]thiophene-2-carboxylic acid (2 g, 10.86 mmol) MeNHOMe-HCl (1.06 g, 10.86 mmol), HOBt (1.47 g, 10.86 mmol) and DIPEA (5.9 mL, 33.67 mmol) were combined in DMF (40 mL). To the stirred mixture was added EDCI (2.72 g, 14.12 mmol). After 5 h, EtOAc (100 mL) was added and the organics were washed with saturated aqueous NaHCO3 and brine then dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (20% to 45% EtOAc/Hex) to afford the title compound (1.98 g, 80%).

reactant | 3a,6a-Dihydro-thieno[3,2-b]thiophene-2-carboxylic acid | 10.86 mmol, 2 g | S1C2C(C=C1C(=O)O)SC=C2 | C7H6O2S2
reactant | HOBt | 10.86 mmol, 1.47 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 33.67 mmol, 5.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 14.12 mmol, 2.72 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3a,6a-Dihydro-thieno[3,2-b]thiophene-2-carboxylic acid methoxy-methyl-amide | 1.98 g, 80% | CON(C(=O)C1=CC2C(S1)C=CS2)C | C9H11NO2S2
